US07470680B2
(S)-1,4-dichloro-7-(2-oxo-2-(4-(2-oxo-1,2,4,5-tetrahydrobenzo[d][1,3]diazepin-3-yl)piperidin-1-yl)ethyl)-9-(2-(piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-2-(1,4-Dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid (54 mg, 0.123 mmol) was dissolved in N,N-dimethylformamide (1.5 ml). N,N-Diisopropylethylamine (100 μL, 0.574 mmol) was added to the mixture followed successively by TBTU (42 mg, 0.131 mmol) and then 3-(piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one (43 mg, 0.175 mmol). Reaction stirred at room temperature for 4 hours. Reaction was quenched with 50% acetonitrile-water. Material was purified by reverse phase prep HPLC (water-acetonitrile-trifluoroacetic acid). Acetonitrile was removed from the fractions by roto-vap. Remaining aqueous was made basic with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 54% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.85 (s, 1H) 8.50 (s, 1H) 7.32 (s, 1H) 6.96-7.11 (m, 3H) 6.80 (s, 1H) 5.26 (s, 2H) 4.44-4.54 (m, 1H) 4.27-4.37 (m, 1H) 4.06 (d, J=14.04 Hz, 1H) 3.79-3.96 (m, 2H) 3.34-3.44 (m, 2H) 3.05-3.25 (m, 3H) 2.82-3.02 (m, 4H) 2.45-2.66 (m, 2H) 2.28-2.40 (m, 1H) 2.04-2.26 (m, 4H) 1.80-1.95 (m, 2H) 1.58-1.73 (m, 2H) 1.40-1.57 (m, 1H) 1.18 (bs, 6H). High resolution MS m/e (M+H)+=666.2756.

reactant | (S)-2-(1,4-Dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 0.123 mmol, 54 mg | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)O)=O)CCN3CCCCC3)Cl | C20H24Cl2N4O3
reactant | N,N-Diisopropylethylamine | 0.574 mmol, 100 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.131 mmol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one | 0.175 mmol, 43 mg | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | (S)-1,4-dichloro-7-(2-oxo-2-(4-(2-oxo-1,2,4,5-tetrahydrobenzo[d][1,3]diazepin-3-yl)piperidin-1-yl)ethyl)-9-(2-(piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 54% yield | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(N3CCC(CC3)N3C(NC1=C(CC3)C=CC=C1)=O)=O)=O)CCN1CCCCC1)Cl | C34H41Cl2N7O3
